Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
Left mandibular jaw fracture 
 
Major Surgical or Invasive Procedure:
OPEN REDUCTION INTERNAL FIXATION MANDIBULAR FRACTURE LEFT, 
CLOSED REDUCTION LEFT MANDIBLE- Dr. ___

 
___ of Present Illness:
___ is a ___ year-old man who presents as a transfer 
from
an OSH s/p assault. He presented after being punched in the 
face,
transferred for a fractured mandible. Punched in the head one
time approximately 3 hours prior to arrival. No loss of
consciousness, not on blood thinners, no fall. Went to outside
hospital, got a CT head and C-spine. Notable for L posterior
molar fx, L mandibular ramus fx in 3 different locations. 
Patient
has pain with swallowing but no difficulty breathing. Patient 
has
no relevant medical problems. Denies chest pain, vision changes,
numbness, weakness, paresthesias. No clear nasal discharge. His
c-spine was cleared in the ED prior to the trauma team's
evaluation. 

 
Past Medical History:
Prior Gun Shot Wound (___)
Anxiety/depression

Diverting Colostomy s/p GSW to Abdomen ___
Colostomy reversal ___
Ureteral injury w/ reimplantation & stenting ___

 
Social History:
___
Family History:
NC
 
Physical Exam:
Vitals: 24 HR Data (last updated ___ @ 043)
    Temp: 97.3 (Tm 99.7), BP: 116/68 (116-153/68-90), HR: 63
(51-73), RR: 18 (___), O2 sat: 97% (96-100), O2 delivery: Ra
Fluid Balance (last updated ___ @ 047)
  Last 8 hours  Total cumulative 450ml
    IN: Total 1250ml, PO Amt 120ml, IV Amt Infused 1130ml
    OUT:  Total 800ml, Urine Amt 800ml
  Last 24 hours  Total cumulative 1724ml
    IN: Total 4024ml, PO Amt 585ml, IV Amt Infused 3439ml
    OUT:  Total 2300ml, Urine Amt 2300ml
Physical exam:
Gen: NAD, AxOx3. Edema to left lower face
Card: RRR, no m/r/g
Pulm: CTAB, no respiratory distress
Abd: Soft, non-tender, non-distended, normal bs.  
Wounds: c/d/i
Ext: No edema, warm well-perfused
 
Pertinent Results:
___ 07:10AM BLOOD WBC-10.0 RBC-4.35* Hgb-13.4* Hct-40.6 
MCV-93 MCH-30.8 MCHC-33.0 RDW-14.0 RDWSD-48.6* Plt ___
___ 05:00AM BLOOD WBC-6.5 RBC-4.75 Hgb-14.6 Hct-45.6 MCV-96 
MCH-30.7 MCHC-32.0 RDW-14.2 RDWSD-50.2* Plt ___
___ 12:46PM BLOOD WBC-7.3 RBC-4.49* Hgb-13.8 Hct-43.4 
MCV-97 MCH-30.7 MCHC-31.8* RDW-14.5 RDWSD-51.8* Plt ___
___ 09:15PM BLOOD WBC-9.4 RBC-4.55* Hgb-14.1 Hct-43.1 
MCV-95 MCH-31.0 MCHC-32.7 RDW-14.5 RDWSD-50.4* Plt ___
___ 09:15PM BLOOD Neuts-67.4 ___ Monos-10.0 Eos-1.2 
Baso-0.6 Im ___ AbsNeut-6.35* AbsLymp-1.93 AbsMono-0.94* 
AbsEos-0.11 AbsBaso-0.06
___ 07:10AM BLOOD Plt ___
___ 05:00AM BLOOD Plt ___
___ 12:46PM BLOOD Plt ___
___ 12:20AM BLOOD ___ PTT-24.6* ___
___:15PM BLOOD Plt ___
___ 07:10AM BLOOD Glucose-92 UreaN-8 Creat-0.9 Na-141 K-4.3 
Cl-104 HCO3-26 AnGap-11
___ 05:00AM BLOOD Glucose-101* UreaN-8 Creat-0.9 Na-142 
K-4.5 Cl-102 HCO3-26 AnGap-14
___ 12:46PM BLOOD Glucose-94 UreaN-12 Creat-1.0 Na-140 
K-4.3 Cl-101 HCO3-28 AnGap-11
___ 09:15PM BLOOD Glucose-89 UreaN-16 Creat-1.2 Na-139 
K-4.7 Cl-102 HCO3-27 AnGap-10
___ 07:10AM BLOOD Calcium-9.1 Phos-3.2 Mg-2.0
___ 05:00AM BLOOD Calcium-9.3 Phos-2.9 Mg-2.1
___ 12:46PM BLOOD Calcium-9.3 Phos-2.9 Mg-2.1
 
Brief Hospital Course:
Mr. ___ was admitted on ___ under the acute care surgery 
service for management of left mandible fracture . He was taken 
to the operating room with OMFS and underwent Open reduction 
internal fixation mandibular fracture left., closed reduction 
left mandible with Dr. ___.  Please see operative report for 
details of this procedure. He tolerated the procedure well and 
was extubated upon completion. He was subsequently taken to the 
PACU for recovery.

He was transferred to the surgical floor hemodynamically stable. 
His vital signs were routinely monitored and he remained 
afebrile and hemodynamically stable. He was initially given IV 
fluids postoperatively, which were discontinued when he was 
tolerating PO's. His diet was advanced on the morning of ___ 
to fulls, which he tolerated without abdominal pain, nausea, or 
vomiting. He was voiding adequate amounts of urine without 
difficulty. He was encouraged to mobilize out of bed and 
ambulate as tolerated, which he was able to do independently. 
His pain level was routinely assessed and well controlled at 
discharge with an oral regimen as needed.
On ___ he was discharged home with scheduled follow up with 
___ clinic. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 50 mg PO DAILY 
2. Loratadine 10 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen (Liquid) 975 mg PO Q6H 
RX *acetaminophen 500 mg/15 mL 30 ml by mouth every six (6) 
hours Disp #*1 Ounce Refills:*0 
2.  Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID 
RX *chlorhexidine gluconate 0.12 %  twice a day Refills:*0 
3.  Docusate Sodium (Liquid) 100 mg PO BID 
RX *docusate sodium [Docu] 50 mg/5 mL 10 ml by mouth twice a day 
Refills:*0 
4.  Ibuprofen Suspension 600 mg PO Q6H 
RX *ibuprofen 100 mg/5 mL 25 ml by mouth every six (6) hours 
Refills:*0 
5.  OxycoDONE Liquid 5 mg PO Q4H:PRN Pain - Severe 
  Reason for PRN duplicate override: DC dilaudid
RX *oxycodone 5 mg/5 mL 1 ml by mouth every four (4) hours 
Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Displaced LEFT parasymphysis and body fracture 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were admitted to ___ and 
underwent a surgical repair for your left jaw fracture. You are 
recovering well and are now ready for discharge. Please follow 
the instructions below to continue your recovery:

POSTOPERATIVE INSTRUCTIONS:

Please refrain from smoking.

Oral Hygiene:

It is important to maintain good oral hygiene postoperatively to
prevent postoperative infection as well as dental decay and/or
gum disease.

Please rinse with chlorohexidine or Peridex rinse twice a day. 
Do
not eat or drink for one half hour after rinsing.

Perform warm salt water rinses regularly after eating. Wait one
hour after chlorohexidine rinse before beginning salt-water
rinses.
Brush your teeth regularly. You may remove any elastics in place
in order to thoroughly brush but be sure to replace them as
instructed after brushing.
You may use a water-pik device for oral cleaning if you own one.
However, this is not necessary.
No flossing. Because flossing may not be possible it is 
important
to rinse and brush as mentioned above.
Mechanical and manual toothbrushes alike are acceptable for
postoperative dental care.

Activity:
After surgery you may not participate in strenuous physical
activity or any activity that may result in trauma to the face
for at least six weeks postoperatively.

No strenuous running, weight lifting, etc.
No contact sports.

Diet:
It is critical after surgery that you remain on a blenderized
diet (non-chewing) for six weeks. All foods with consistency
harder than applesauce must be placed in a blender prior to
eating.

Blenderized diet for six weeks.
Avoid fat free foods for optimum nutrition and to avoid weight
loss.

Anything that can be liquefied in a blender will help in the
dietary intake. Additional dietary supplements may include
Carnation Instant Breakfast, Ensure, etc.

Pain and Swelling:
For moderate-severe pain, you can use the prescribed narcotics.
These should not be taken on an empty stomach as they can cause
nausea/vomiting. They may also cause drowsiness and 
constipation.
Do not drive while medicated. For constipation, you can buy
over-the-counter Colace/Docusate Sodium or a stool softener. 
Pain
and swelling are usually highest at 48-72 hours postoperative.
After that period pain should continue to decrease and you can
use either Tylenol or Ibuprofen for mild-moderate pain. You can
also apply ice to the face frequently for the first ___ days
postoperative to decrease swelling and improve comfort. Use the
ice packs 20 minutes on / 20 minutes off or alternate from side
to side every 20 minutes. Sleeping in a semi-upright position in
bed can reduce swelling. Using two pillows is usually adequate
for this.

Nausea:
This is usually due to swallowing a small amount of blood during
and/or after surgery. A small amount of carbonated drink, such 
as
7-Up or ginger ale, every hour for 5 or 6 hours will usually
relieve this feeling. Sometimes pain medications can cause
nausea. If your jaws are shut with wires or elastics, nausea is
no cause for alarm. Remember that even if you should become
nauseated and vomit, everything that is in your stomach has been
strained through your teeth and can easily pass back through. If
your nausea is persistent, please call our office.

The ___ clinic will contact you to schedule a post-operative
appointment. 

With any questions or concerns, please call ___ and ask
for the oral surgery resident on call to be paged.

 

 

 
Followup Instructions:
___